Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
heavy vaginal bleeding
 
Major Surgical or Invasive Procedure:
Blood transfusion

 
History of Present Illness:
CC: heavy vaginal bleeding
 
HPI: ___ yo G4P1021 with T2DM who presents to the ED with heavy
vaginal bleeding. Last two months has had heavier menses, 
however
it has been substantially heavier in the last 7 days with 
passage
of large clots. Was going through ___ tampons/pads every half
hour to an hour. Has Mirena IUD in place, which was placed for
treatment of heavy AUB in ___ when she was seen by Dr. ___ 
___
NP ___ for this same complaint. At that time her hct
was as low as 20 at one point, requiring 2 units of pRBC
transfusion. She subsequently recived a Mirena IUD by ___ ___. She reports improved bleeding pattern in terms of
heaviness and fewer days of menses. Denies any pain. 

 
Past Medical History:
 
OBHx: G4P1
- SVD x1
- TAB x2, D&C x2
- Ectopic pregnancy, s/p lsc R salpingectomy, ___ at ___
 
GynHx:
- Denies abnormal Pap
- History of chlamydia ___
 
PMH: 
- Chronic anemia due to heavy abnormal uterine bleeding, on Fe 
- T2DM HgA1C 7.9 (___), started on 500 mg metformin

PSH: 
- LSC R salpingectomy for ectopic pregnancy 
- D&C x2 

Meds: 
- Mirena IUD
- Metformin 500 mg daily
 
All: NKDA 
 

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
___ ___ Temp: 98.0 PO BP: 131/80 HR: 96 RR: 16 O2 sat: 
100%
O2 delivery: RA 
___ ___ Intake Description: NPO 
___ 0751 ___ pad: 35% staining, new pad placed 

Physical Exam:
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, non-tender to deep palpation
throughout
GU: pad with no blood
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
___ 08:00PM BLOOD WBC-10.1* RBC-3.90 Hgb-8.5* Hct-28.2* 
MCV-72* MCH-21.8* MCHC-30.1* RDW-18.0* RDWSD-46.7* Plt ___
___ 08:00PM BLOOD Neuts-60.5 ___ Monos-4.0* 
Eos-0.7* Baso-0.6 Im ___ AbsNeut-6.12* AbsLymp-3.42 
AbsMono-0.40 AbsEos-0.07 AbsBaso-0.06
___ 12:06AM BLOOD WBC-10.5* RBC-3.15* Hgb-6.8* Hct-22.7* 
MCV-72* MCH-21.6* MCHC-30.0* RDW-17.8* RDWSD-46.7* Plt ___
___ 12:06AM BLOOD Neuts-61.2 ___ Monos-4.5* 
Eos-0.6* Baso-0.4 Im ___ AbsNeut-6.40* AbsLymp-3.45 
AbsMono-0.47 AbsEos-0.06 AbsBaso-0.04
___ 06:10AM BLOOD WBC-11.8* RBC-3.88* Hgb-9.0* Hct-29.2* 
MCV-75* MCH-23.2* MCHC-30.8* RDW-18.6* RDWSD-50.3* Plt ___
___ 01:45PM BLOOD WBC-13.6* RBC-4.33 Hgb-10.0* Hct-32.1* 
MCV-74* MCH-23.1* MCHC-31.2* RDW-17.8* RDWSD-47.8* Plt ___
___ 08:00PM BLOOD ___ PTT-35.7 ___
___ 01:45PM BLOOD ___ PTT-35.5 ___
___ 01:45PM BLOOD ___
___ 08:00PM BLOOD Glucose-93 UreaN-15 Creat-0.6 Na-141 
K-4.0 Cl-105 HCO3-24 AnGap-12
___ 01:45PM BLOOD Glucose-136* UreaN-9 Creat-0.6 Na-137 
K-4.0 Cl-100 HCO3-26 AnGap-11
___ 01:45PM BLOOD Calcium-9.3 Phos-3.1 Mg-1.7 Iron-396*
___ 01:45PM BLOOD calTIBC-429 Ferritn-37 TRF-330
___ 01:45PM BLOOD %HbA1c-6.8* eAG-148*
___ 08:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:00PM URINE Blood-LG* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:00PM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE Epi-1
___ 08:00PM URINE Mucous-FEW*
___ 08:00PM URINE UCG-NEGATIVE
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
for management of abnormal uterine bleeding. 

*) Abnormal uterine bleeding 
A transvaginal US on ___ showed a 9.7 cm uterus with a 15mm 
thick heterogeneous endometrium endometrium and anechoic fluid 
within the endometrium at the fundus; her previously placed IUD 
was not visualized, suggesting IUD expulsion. Her urine HCG was 
negative. She was anemic with a baseline Hct of 28 on initial 
presentation to the ED. Her Hct nadired at 22.7 on ___, and 
she was transfused 2 units of pRBCs in the ED with an 
appropriate rise in her Hct to 29.2. She was treated with IV 
tranexamic acid on ___, and was subsequently continued on a 
regimen of PO tranexamic acid ___ mg TID x 5 days. her Hct 
remained stable for the remainder of her admission, and her 
vaginal bleeding significantly improved to light spotting s/p IV 
tranexamic acid. She was therefore discharged home with 
outpatient follow up and prescription for a 5 day course of PO 
tranexamic acid. 

*) Contraception: 
Her IUD was found to be expelled on pelvic US. She declined 
contraceptive counseling during her admission and plans to 
re-address contraception with her primary GYN provider as an 
outpatient.   

*) Microcytic anemia
She was found to have microcytic anemia with an MCV of 72 on 
admission. Iron studies on ___ were within normal limits, 
suggesting acute blood loss as the etiology for her anemia. 

*) T2DM
She was continued on her home metformin 500 mg daily. Her blood 
glucose was monitored with 2 hour pre- and post-prandial 
fingersticks. Her fingersticks were found to be elevated ranging 
from 190s-220s in the setting of HgbA1c 6.9%. 

 
Medications on Admission:
Metformin
Mirena IUD
 
Discharge Medications:
1.  Tranexamic Acid Oral Solution 1300 mg PO TID Duration: 5 
Days 
RX *tranexamic acid ___ mg 2 tablet(s) by mouth three times a 
day Disp #*15 Tablet Refills:*0
RX *tranexamic acid ___ mg 2 tablet(s) by mouth q 8 hours Disp 
#*28 Tablet Refills:*0 
2.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abnormal uterine bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for heavy vaginal 
bleeding. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___